US07115596B2
(3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoate hydrochloride
Dissolve (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-[2-(4-oxobutyl)-1,3-thiazol-4-yl]butanoate (230 mg, 0.6 mmol) and 4-morpholin-4-ylpyridin-2-amine (88 mg, 0.5 mmol) prepared according to Scheme 6, Example 1, in CH2Cl2. Add 3 mL THF and add NaBH(OAc)3. Stir at room temperature for 18 hours. Add 1.0 eq NaBH(OAc)3 and stir 24 hrs. The reaction was concentrated in vacuo and purified via reverse phase HPLC using a gradient of 10–60% CH3CN/H2O/0.5% HCl over 30 minutes to obtain the crude desired product.

reactant | (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-[2-(4-oxobutyl)-1,3-thiazol-4-yl]butanoate | 0.6 mmol, 230 mg | O1COC2=C1C=CC(=C2)[C@H](CC(=O)OCC)CC=2N=C(SC2)CCCC=O | C20H23NO5S
reactant | 4-morpholin-4-ylpyridin-2-amine | 0.5 mmol, 88 mg | N1(CCOCC1)C1=CC(=NC=C1)N | C9H13N3O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 1.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoate hydrochloride | Cl.O1COC2=C1C=CC(=C2)[C@H](CC(=O)OCC)CC=2N=C(SC2)CCCCNC2=NC=CC(=C2)N2CCOCC2 | InChI=1S/C29H36N4O5S.ClH/c1-2-36-29(34)17-22(21-6-7-25-26(16-21)38-20-37-25)15-23-19-39-28(32-23)5-3-4-9-30-27-18-24(8-10-31-27)33-11-13-35-14-12-33;/h6-8,10,16,18-19,22H,2-5,9,11-15,17,20H2,1H3,(H,30,31);1H/t22-;/m0./s1
